US08212045B2
A flask was charged with (S)-N-(5-(2-methoxyethylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (0.200 g, 0.375 mmol), 3M HCl (0.751 ml, 0.751 mmol), and ethanol (5 mL). The reaction was heated to 80° C. for 1 hour and then cooled to ambient temperature. The reaction was concentrated in vacuo and purified using reverse phase chromatography (5 to 95% acetonitrile in water) to afford (S)-1-(5-(5-(2-methoxyethylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride (0.165 g, 0.298 mmol, 79.4% yield) as white solid after HCl salt formation. Mass Spectrum (apci) m/z=453.1 (M+H—HCl).

reactant | (S)-N-(5-(2-methoxyethylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 0.375 mmol, 0.200 g | COCCSC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NN(C2C)C)C | C24H32N6O4S2
reactant | HCl | 0.751 mmol, 3M, 0.751 ml | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (S)-1-(5-(5-(2-methoxyethylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride | 0.298 mmol, 0.165 g, 79.4% yield | Cl.COCCSC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H](CO)O)OC=1C(=NN(C1C)C)C | InChI=1S/C18H24N6O4S2.ClH/c1-10-15(11(2)24(3)22-10)28-14-7-12(29-6-5-27-4)8-19-17(14)21-18-20-16(23-30-18)13(26)9-25;/h7-8,13,25-26H,5-6,9H2,1-4H3,(H,19,20,21,23);1H/t13-;/m1./s1
